US05578620
8-Phenyloctyloxymethyloxirane
A procedure similar to that described in Preparation 46 was repeated, except that 4 g of 8-phenyloctyl alcohol, 3.18 ml of epibromohydrin, 0.85 g of sodium hydride (as a 55% by weight dispersion in mineral oil) and 80 ml of anhydrous dimethylformamide were used, to give 2.42 g of the title compound having an Rf value of 0.51 (on silica gel thin layer chromatography, using a 1:6 by volume mixture of ethyl acetate and hexane as the developing solvent).

reactant | 8-phenyloctyl alcohol | 4 g | C1(=CC=CC=C1)CCCCCCCCO | C14H22O
reactant | epibromohydrin | 3.18 ml | C(Br)C1CO1 | C3H5BrO
reactant | sodium hydride | 0.85 g | [H-].[Na+]
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 8-Phenyloctyloxymethyloxirane | 2.42 g | C1(=CC=CC=C1)CCCCCCCCOCC1OC1 | C17H26O2
